US06770638B2
Step 2: Synthesis of 1-{4-[4-(3-Trifluoromethylphenyl)piperazin-1-yl]butyl}-1,5,6,7-tetrahydroindol-4-one
A mixture of 1-(4-Chlorobutyl)-1,5,6,7-tetrahydroindol-4-one (6.0 g, 26.6 mmol, as a mixture with 3.0 g of 4-hydroxy-4-methyl-2-pentanone) and sodium iodide (4.38 g, 29.2 mmol) in acetonitrile (100 mL) was heated at reflux for 6 h. (3-Trifluoromethylphenyl)piperazine (5.81 g, 25.2 mmol) and potassium carbonate (3.67 g, 26.6 mmol) was then added and reflux continued for 16 h. TLC (ethyl acetate:dichloromethane 1:1) showed complete reaction. The reaction was poured into ice cold water (400 mL) and stirred for 0.5 h. An oil separated out and was isolated from the mixture. The oil was dissolved with dichloromethane (150 mL), washed with water and brine, then dried with sodium sulfate, filtered and the solvent removed under vacuum to yield the title compound as an oil (9.7 g, 91.5%).

reactant | 1-(4-Chlorobutyl)-1,5,6,7-tetrahydroindol-4-one | ClCCCCN1C=CC=2C(CCCC12)=O | C12H16ClNO
reactant | 4-hydroxy-4-methyl-2-pentanone | 3.0 g | OC(CC(C)=O)(C)C | C6H12O2
reactant | sodium iodide | 29.2 mmol, 4.38 g | [I-].[Na+]
reactant | (3-Trifluoromethylphenyl)piperazine | 25.2 mmol, 5.81 g | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | potassium carbonate | 26.6 mmol, 3.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | 1-{4-[4-(3-Trifluoromethylphenyl)piperazin-1-yl]butyl}-1,5,6,7-tetrahydroindol-4-one | 9.7 g, 91.5% | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCCN1C=CC=2C(CCCC12)=O)(F)F | C23H28F3N3O
